US03980681
3-Acetoxy-17β-benzoyloxy-oestra-1,3,5(10)-triene
3-Acetoxy-oestra-1,3,5(10)-trien-17β-ol (500 mg., 1.6 mmole) in pyridine (2 ml.) was treated with benzoyl chloride (1.0 ml.) at room temperature for 16 hr. The stirred mixture was then slowly diluted with water (10 ml.), followed by methanol (5 ml.). The crystalline precipitate was filtered off, washed with water and dried to give the title compound (665 mg., 100%), m.p. 148.5°-150.5°.

reactant | 3-Acetoxy-oestra-1,3,5(10)-trien-17β-ol | 1.6 mmole, 500 mg | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O | C20H26O3
reactant | benzoyl chloride | 1.0 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methanol | 5 ml | CO | CH4O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 10 ml | O | H2O
product | 3-Acetoxy-17β-benzoyloxy-oestra-1,3,5(10)-triene | 665 mg, 100% | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)OC(C1=CC=CC=C1)=O | C27H30O4
